US08455646B2
Preparation of 3-({[(R)-(1-aza-bicyclo[2.2.2]oct-3-yl)oxycarbonyl]-phenyl-methyl}-amino)-benzoic acid ethyl ester (C67)
3-[(Carboxy-phenyl-methyl)-amino]-benzoic acid ethyl ester hydrochloride (I66) (161 mg, 0.48 mmol), 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) (218 mg, 0.57 mmol), and HOBT (88 mg, 0.57 mmol) are dissolved in dry THF (10 mL). (R)-Quinuclidin-3-ol (61.0 mg, 0.48 mmol) and DIPEA (0.17 mL, 0.96 mmol) are added and the mixture is stirred under inert atmosphere overnight. THF is evaporated and the crude residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The recovered organic layer is dried (Na2SO4), filtered and evaporated. The crude is purified by flash chromatography (DCM/MeOH=95/5) to afford the title compound as a yellow oil (154 mg, 79% yield, mixture of diastereoisomers).

reactant | 3-[(Carboxy-phenyl-methyl)-amino]-benzoic acid ethyl ester hydrochloride | 0.48 mmol, 161 mg | Cl.C(C)OC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)C(=O)O)=O
reactant | HOBT | 0.57 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-Quinuclidin-3-ol | 0.48 mmol, 61.0 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DIPEA | 0.96 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-({[(R)-(1-aza-bicyclo[2.2.2]oct-3-yl)oxycarbonyl]-phenyl-methyl}-amino)-benzoic acid ethyl ester | 154 mg, 79% yield | C(C)OC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)C(=O)O[C@H]1CN2CCC1CC2)=O | C24H28N2O4
